US05863947
2-Amino-2(2-benzylthio-4-carboxyphenyl)acetic acid
A solution of 5-(2-benzylthio-4-carboxyphenyl)hydantoin (0.375 g, 0.12 mmol) in 2N sodium hydroxide (6 ml, 12 mmol) was heated with stirring in a sealed reaction vessel for 20 hours at 120° C. The cooled solution was acidified wih 2N hydrochloric acid (1 ml) to pH~4 and chromatographed on ion exchange (Dowex 50×8-100). The column was eluted sequentially with water, tetrahydrofuran-water (1:1), water, then 10% pyridine in water. Fractions collected after pyridine water were combined, evaporated to dryness, redissolved in water, then freeze-dried to give the title product as an off-white solid, m.p. ~226° C.

reactant | 5-(2-benzylthio-4-carboxyphenyl)hydantoin | 0.12 mmol, 0.375 g | C(C1=CC=CC=C1)SC1=C(C=CC(=C1)C(=O)O)C1C(NC(N1)=O)=O | C17H14N2O4S
reactant | sodium hydroxide | 12 mmol, 2N, 6 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2N, 1 ml | Cl | ClH
product | 2-Amino-2(2-benzylthio-4-carboxyphenyl)acetic acid | NC(C(=O)O)C1=C(C=C(C=C1)C(=O)O)SCC1=CC=CC=C1 | C16H15NO4S
